US07205302B2
3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}phenol
To 1.17 g of 1-(benzyloxy)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}benzene, 12 ml of ethanol and 6 ml of hydrochloric acid were added, followed by heating with stirring at 80° C. for 17 hours. The reaction solution was air-cooled to room temperature, neutralized with an aqueous saturated sodium hydrogen carbonate solution and then extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The crude crystal was washed with diisopropyl ether and then dried to obtain 0.87 g of the desired compound as a pale yellow crystal having a melting point of 158 to 161° C.

reactant | 1-(benzyloxy)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}benzene | 1.17 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CCN(C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H29N3O
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}phenol | 0.87 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CCC=1C=C(C=CC1)O | C25H23N3O
